US05091432
0.516 g (5.05 mmol) of N-acetylethylenediamine was placed into a 10 ml round bottom flask. The flask was heated to 120° C. and 0.250 g (1.06 mmol) of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester (AIT-0027) was added to the stirring solution. The solution was heated at 120° C. for one hour. 8 ml of acetonitrile was added to the viscous oil and stirred. Approximately 1 ml of methanol was added and the solution was stirred vigorously for 30 minutes. The resulting white precipitate was collected by vacuum filtration and was washed with acetonitrile and ether to yield 237 mg of 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-[(1-oxoethyl)amino]ethyl]propanamide (AIT-0051) as a white solid upon drying. Yield: 76%

reactant | N-acetylethylenediamine | 5.05 mmol, 0.516 g | C(C)(=O)NCCN | C4H10N2O
reactant | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)propionic acid, ethyl ester | 1.06 mmol, 0.250 g | O=C1C=2N=CN(C2N=CN1)CCC(=O)OCC | C10H12N4O3
reactant | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | methanol | 1 ml | CO | CH4O
product | 3-(1,6-dihydro-6-oxo-9H-purin-9-yl)-N-[2-[(1-oxoethyl)amino]ethyl]propanamide | 237 mg, Yield: 76% | O=C1C=2N=CN(C2N=CN1)CCC(=O)NCCNC(C)=O | C12H16N6O3
